US07504420B2
methyl 3-(isopropyl((4-methylthiazol-2-yl)methyl)carbamoyl)benzoate
Et3N (1 drop, catalytic) was added to a stirred suspension of mono-Methyl isophthalate (0.294 mmol, 1.0 eq) in 2 ml SOCl2 under Ar. The mixture was heated to reflux at 90° C. for 2 h. The reaction was cooled to RT, and the solvent was removed in vacuo. The residue was placed under an Ar atmosphere and dissolved in 2 ml anh CH2Cl2. The resulting solution was treated with a solution of N-((4-methylthiazol-2-yl)methyl)propan-2-amine (0.294 mmol, 1.0 eq made from reductive amination of 4-methylthiazole-2-carbaldehyde with isopropylamine) dissolved in 1 ml anh CH2Cl2 under Ar. After stirring at RT for 30 min, the reaction was treated with ET3N (0.294 mmol, 1 eq). After stirring at RT for 30 min, the reaction is poured into a seperatory funnel, washed with sat. NaHCO3 (×1), water (×3), brine (×1), and dried over Na2SO4. The inorganics were removed via filtration, and the solvent was removed in vacuo yielding the crude product in 93% yield.

reactant | mono-Methyl isophthalate | 0.294 mmol, 1.0 eq | C(C1=CC(C(=O)[O-])=CC=C1)(=O)OC
reactant | N-((4-methylthiazol-2-yl)methyl)propan-2-amine | 0.294 mmol, 1.0 eq | CC=1N=C(SC1)CNC(C)C | C8H14N2S
catalyst | Et3N | 1 drop | CCN(CC)CC | C6H15N
solvent | SOCl2 | 2 ml | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | methyl 3-(isopropyl((4-methylthiazol-2-yl)methyl)carbamoyl)benzoate | 93% yield | C(C)(C)N(C(=O)C=1C=C(C(=O)OC)C=CC1)CC=1SC=C(N1)C | C17H20N2O3S
